US07915267B2
4-oxo-N-[(3-{[4-oxo-4-(1H-1,2,4-triazol-3-ylamino)butyl]oxy}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide
A solution of 4-{[3-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]oxy}butanoic acid obtained in Reference Example 44 (100 mg, 0.262 mmol), 1H-1,2,4-triazol-3-amine (26.4 mg, 0.314 mmol), 1-[3-(dimethylamino)propyl]-3-ethyl-carbodiimide hydrochloride (60.3 mg, 0.314 mmol) and 1-hydroxybenzotriazole (42.5 mg, 0.314 mmol) in DMF (5 mL) was stirred at 40° C. for 5 hr. Water was added to the reaction mixture, and the resulting solid was collected by filtration, washed with water and IPE, and dried to give the title compound as a white powder (95.0 mg, 73%).

reactant | 4-{[3-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]oxy}butanoic acid | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC=1C=C(C=CC1)OCCCC(=O)O | C20H19N3O5
reactant | 1H-1,2,4-triazol-3-amine | 0.314 mmol, 26.4 mg | N1N=C(N=C1)N | C2H4N4
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl-carbodiimide hydrochloride | 0.314 mmol, 60.3 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.314 mmol, 42.5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-oxo-N-[(3-{[4-oxo-4-(1H-1,2,4-triazol-3-ylamino)butyl]oxy}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide | 95.0 mg, 73% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC1=CC(=CC=C1)OCCCC(NC1=NNC=N1)=O | C22H21N7O4
